US04419439
Synthesis of 4-Hexyloxy-8-methoxy-1-naphthol [Compound (I-7)]
10 ml of hexyl alcohol and 50 ml of acetonitrile were placed in a 1 l three-necked flask, and 12.8 g of phosphorus oxychloride was dropwisely added thereto under cooling with ice while stirring. Thereafter, 9.5 g of SnCl2.2H2O was added to the reaction mixture at room temperature. Then, 7.5 g of 8-methoxy-1,4-naphthoquinone was added to the reaction mixture at room temperature. The reaction mixture was refluxed for 2 hours on steam bath. The reaction mixture was poured into 1.2 l of diluted hydrochloric acid and extracted with 500 ml of ethyl acetate. The ethyl acetate solution was washed with water, dried with MgSO4 overnight, and concentrated under reduced pressure to obtain 9 g of oily substance. The oily substance was purified by column chromatography using a mixed solvent of n-hexane and ethyl acetate and, then, recrystallized from benzene to obtain 6 g of white crystals having a melting point of 105° to 107° C.

reactant | hexyl alcohol | 10 ml | C(CCCCC)O | C6H14O
reactant | phosphorus oxychloride | 12.8 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | SnCl2.2H2O | 9.5 g | O.O.Cl[Sn]Cl
reactant | 8-methoxy-1,4-naphthoquinone | 7.5 g | COC=1C=CC=C2C(C=CC(C12)=O)=O | C11H8O3
reactant | hydrochloric acid | 1.2 l | Cl | ClH
solvent | acetonitrile | 50 ml | C(C)#N | C2H3N
product | 4-Hexyloxy-8-methoxy-1-naphthol | 6 g | C(CCCCC)OC1=CC=C(C2=C(C=CC=C12)OC)O | C17H22O3
